US07977351B2
3-(2-Methyl-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one
A solution of 1,3-dihydro-indol-2-one (200 mg, 1.5 mmol.) in THF (2 mL) is placed under an argon atmosphere and cooled in an ice bath. A solution of Li bis(trimethylsilyl)amide (4.0 mL of a 1M solution in THF, 4.0 mmol) is added slowly at 0° C. and the resulting solution is stirred for 10 min. The ice-bath is then removed and a solution of 2-methyl-7H-furo[3,4-b]pyridin-5-one (150 mg, 1.00 mmol) in THF (6 mL) is added dropwise to the reaction mixture. The resulting solution is stirred for 4 h and then poured into 10% aqueous HCl solution (50 mL). After 10 min at room temperature, the reaction is heated to ˜90° C. for 45 min followed by stirring at room temperature for 36 h. The solid which precipitated from solution is collected by filtration and washed sequentially with small volumes of MeOH, EtOAc, Et2O and dried under vacuum to give the title compound as a yellow solid (78 mg, 30%).

reactant | 1,3-dihydro-indol-2-one | 1.5 mmol, 200 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 2-methyl-7H-furo[3,4-b]pyridin-5-one | 1.00 mmol, 150 mg | CC1=CC=C2C(=N1)COC2=O | C8H7NO2
reactant | HCl | 50 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-(2-Methyl-7H-furo[3,4-b]pyridin-5-ylidene)-1,3-dihydro-indol-2-one | 78 mg, 30% | CC1=CC=C2C(=N1)COC2=C2C(NC1=CC=CC=C21)=O | C16H12N2O2
